US05527793
4-Amino-1H-imidazol-2-carboxylic acid
A solution of ethyl 4-amino-1H-imidazol-2-carboxylate (2.0 g, 12.9 mmol) (E. Gomez, C. Avendano and A. McKillop, Tetrahedron 1986, 42, 2635) in ethanol (50 ml) and 1M aqueous sodium hydroxide (14 ml) was refluxed for 20 minutes. The reaction mixture was concentrated to 20 ml and the pH of the solution adjusted to 5 with concentrated hydrogen chloride. The solid which precipitated, collected by filtration and washed with ethanol and ether to give the title compound (1.5 g, 32%). NMR: δ 7.07 (s, 1H).

reactant | ethyl 4-amino-1H-imidazol-2-carboxylate | 12.9 mmol, 2.0 g | NC=1N=C(NC1)C(=O)OCC | C6H9N3O2
reactant | sodium hydroxide | 1M, 14 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Amino-1H-imidazol-2-carboxylic acid | 1.5 g, 32% | NC=1N=C(NC1)C(=O)O | C4H5N3O2
